* Schematics Netlist *



R_R2         $N_0002 $N_0001  1k  
R_R1         $N_0002 $N_0001  1k  
D_D1         $N_0003 0 D1N4002 
V_V1         $N_0002 0  
+SIN 0 5 10K 0 0 0
R_R3         $N_0001 $N_0003  1k  
