* Schematics Netlist *



R_R1         VPULSE Condensador  100  
C_C1         0 Condensador  1n  
V_V3         VPULSE 0  
+PULSE 0 10 100n 1n 1n 0.6u 0.9u
