* Schematics Netlist *



V_V1         $N_0001 0  AC 1
+SIN 0 0 1200k 0 0 0
C_C1         $N_0002 $N_0001  10n  
R_R1         0 $N_0002  159154.9431  
